US08110579B2
Add 3.16 g (56.38 mmol) of potassium hydroxide to a solution of 5.63 g (11.28 mmol) of ethyl 6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2,6-dimethoxyphenyl)pyridine-2-carboxylate in 132 mL of EtOH. Reflux the reaction mixture for 2 h and then concentrate under reduced pressure. Take up the residue obtained in 10 mL of water, then neutralize with 56.5 mL (56.5 mmol) of a 1N HCl aqueous solution. The precipitate obtained is filtered on a frit and rinsed with 2×10 mL of water. After drying under reduced pressure, we obtain 5.25 g of 6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2,6-dimethoxyphenyl)pyridine-2-carboxylic acid in the form of white powder.

reactant | potassium hydroxide | 56.38 mmol, 3.16 g | [OH-].[K+]
reactant | ethyl 6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2,6-dimethoxyphenyl)pyridine-2-carboxylate | 11.28 mmol, 5.63 g | ClC1=C(C=C(C=C1)C1=C(C=CC(=N1)C(=O)OCC)C1=C(C=CC=C1OC)OC)OCCCN(C)C | C27H31ClN2O5
reactant | HCl | 1N | Cl | ClH
solvent | EtOH | 132 mL | CCO | C2H6O
product | 6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2,6-dimethoxyphenyl)pyridine-2-carboxylic acid | 5.25 g, Yield=100% | ClC1=C(C=C(C=C1)C1=C(C=CC(=N1)C(=O)O)C1=C(C=CC=C1OC)OC)OCCCN(C)C | C25H27ClN2O5
